US05360795
2-Amino-5,6-dichlorobenzimidazole (4).
A modified procedure of the procedure described by Leonard, N.J., et al., J. Am. Chem. Soc. 69:2459 (1947), was followed. Cyanogen bromide (136.6 g, 1.3M, 260 mL of a 5M solution in CH3CN from) was added to a solution of MeOH (250 mL) in H2O (1500 mL). 4,5-Dichloro-1,2-phenylenediamine (available commercially from Aldrich Chemical Company) (222.4 g, 1.26M) was then added in five portions, as the initial reaction is exothermic. The reaction mixture was stirred without heating for 80 hr. then treated with activated charcoal (5 g). The 80 hr time period was for convenience alone, since the reaction is probably complete within 24 hr. After stirring for two hrs, the reaction mixture was filtered through Celite. The filter cake was washed with MeOH (250 mL) and H2O (750 mL) and the filter cake was discarded. The filtrate was diluted with H2O (1.5 L), adjusted to pH 10 with conc. NH 4 OH (1750 mL) and then allowed to stand overnight at 5° C. The precipitate (yellow leaflets) was collected by filtration, washed with H2O and then dried under reduced pressure at 50° C. for 60 hr. Crude yield: 265 g. This product was purified by recrystallization from CH3CN to yield: 205.6 g (80.7%) of 4. MP: 264°-266° C. TLC: Rf =0.22 (CHCl3 --MeOH), 10:1; SiO2). See Horner, J. K. et al., J. Med. Chem. 11:946-949 (1968), lit. MP: 260°-262° C. As an alternative, the crude material is dissolved in absolute ethanol, treated with activated charcoal, and the solution diluted with an equal volume of H2O and stored at 5° C. for 18-24 hr.

reactant | Cyanogen bromide | N#CBr | CBrN
reactant | MeOH | 250 mL | CO | CH4O
reactant | 4,5-Dichloro-1,2-phenylenediamine | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | charcoal | 5 g | C | CH4
solvent | CH3CN | CC#N | C2H3N
solvent | H2O | 1500 mL | O | H2O
product | 2-Amino-5,6-dichlorobenzimidazole | NC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H5Cl2N3
